US07790751B2
4-[3-(1-Naphthylsulfonylmethyl)-4-nitrophenoxymethyl]piperidine-1-carboxylic Acid Benzyl Ester
A mixture of 4-(4-nitrophenoxymethyl)piperidine-1-carboxylic acid benzyl ester (0.8 g, 2.16 mmoles) and 1-chloromethanesulfonylnaphthalene (1.03 g, 4.3 mmoles) in THF (50 ml) at −78° C., under nitrogen, was treated dropwise with a solution of 1M potassium t-butoxide (6.5 ml, 6.5 mmoles) over a 30 minute period, allowed to warm to −40° C., stirred at −40° C. for 5 hours, poured into cold 2N HCl and extracted with EtOAc. The extracts were combined, dried over Na2SO4, and concentrated under vacuum. The resultant was purified by normal phase HPLC on a silica column, using as eluent 40% EtOAc/hexane, to afford the title compound as an off-white solid (0.9 g, 1.6 mmoles).

reactant | 4-(4-nitrophenoxymethyl)piperidine-1-carboxylic acid benzyl ester | 2.16 mmoles, 0.8 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)COC1=CC=C(C=C1)[N+](=O)[O-] | C20H22N2O5
reactant | 1-chloromethanesulfonylnaphthalene | 4.3 mmoles, 1.03 g | ClCS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C11H9ClO2S
reactant | potassium t-butoxide | 6.5 mmoles, 1M, 6.5 ml | CC(C)([O-])C.[K+]
reactant | HCl | 2N | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-[3-(1-Naphthylsulfonylmethyl)-4-nitrophenoxymethyl]piperidine-1-carboxylic Acid Benzyl Ester | 1.6 mmoles, 0.9 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)COC1=CC(=C(C=C1)[N+](=O)[O-])CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C31H30N2O7S
